US05700809
3-(4-[1H-Indol-5-yl]-1,2,3,6-tetrahydropyridin-1-yl)methyl-1H-pyrrolo[2,3-b]pyridine
5-(1,2,3,6-Tetrahydropyridin-4-yl)-1H-indole (200 mg, 1.0 mmol) and 3-dimethylaminomethyl-1H-pyrrolo[2,3-b]pyridine (177 mg, 1.01 mmol) were coupled as described in Example 4 to give a solid which was purified by flash chromatography, eluting with 10% methanol in dichloromethane containing 1% ammonia. Recrystallisation from methanol gave the title compound (115 mg, 35%) as a tan solid, m.p. 187°-189° C.; (Found: C, 73.78; H, 6.34; N, 16.13. C21H20N4.0.75 H2O requires C, 73.77; H, 6.34; N, 16.39%); δH (DMSO-d6) 2.68 (2H, m, tetrahydropyridinyl H), 3.10 (2H, s, tetrahydropyridinyl H), 3.18 (1H, d, J 4.4 Hz, tetrahydropyridinyl H), (other tetrahydropyridinyl H obscured by solvent at 3.30), 3.74 (2H, s, ArCH2N), 6.02 (1H, m, CH=CR), 6.40 (1H, s, ArH), 7.04 (1H, dd, J 7.5, 3.2 Hz, 5-H), 7.20 (1H, d, J 8.2 Hz, ArH), 7.32 (2H, m, ArH), 7.40 (1H, s, ArH), 7.52 (1H, s, ArH), 8.04 (1H, d, J 7.5 Hz, 4-H), 8.18 (1H, d, J 3.2 Hz, 6-H), 11.00 (1H, br s, NH), and 11.48 (1H, br s, NH); m/z (CI+, NH3) 329 (M+1)+.

reactant | 5-(1,2,3,6-Tetrahydropyridin-4-yl)-1H-indole | 1.0 mmol, 200 mg | N1CCC(=CC1)C=1C=C2C=CNC2=CC1 | C13H14N2
reactant | 3-dimethylaminomethyl-1H-pyrrolo[2,3-b]pyridine | 1.01 mmol, 177 mg | CN(C)CC1=CNC2=NC=CC=C21 | C10H13N3
product | 3-(4-[1H-Indol-5-yl]-1,2,3,6-tetrahydropyridin-1-yl)methyl-1H-pyrrolo[2,3-b]pyridine | 115 mg, 35% | N1C=CC2=CC(=CC=C12)C=1CCN(CC1)CC1=CNC2=NC=CC=C21 | C21H20N4
